US07425634B2
(5g) 2-(((3-methyl-4-((8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methoxy)pyridin-2-yl)methyl)sulfinyl)-1H-benzimidazole
To a toluene (8.1 ml) and methanol (0.9 ml) solution of the 2-(((3-methyl-4-((8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methoxy)pyridin-2-yl)methyl)thio)-1H-benzimidazole (372 mg, 0.84 mmol) obtained in the step (5f), a toluene (2.7 ml) and methanol (0.3 ml) solution of 3-chloroperbenzoic acid (200 mg, 0.76 mmol as the content was regarded as 65%) was added dropwise at −55° C. to −50° C. for 10 minutes in a nitrogen atmosphere. The mixture was stirred at −60° C. to −50° C. for 1.5 hours. The reaction was terminated by adding 12 ml of a saturated aqueous solution of sodium hydrogen carbonate at the same temperature. The mixture was extracted with 50 ml of chloroform twice, and then, the organic layer was dried over anhydrous sodium sulfate and concentrated. The obtained crude product was purified by silica gel column chromatography (NH silica gel, elution solvent: ethyl acetate/methanol=1/0-4/1 gradient) and desired fractions were concentrated. The obtained white foam was re-precipitated with chloroform and diethyl ether and filtered. The operation was repeated twice to obtain the title compound (148 mg, 38.4% yield) as a white solid.

reactant | toluene | 8.1 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(((3-methyl-4-((8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methoxy)pyridin-2-yl)methyl)thio)-1H-benzimidazole | 0.84 mmol, 372 mg | CC=1C(=NC=CC1OCC1(OCC2(OCCO2)CO1)C)CSC1=NC2=C(N1)C=CC=C2 | C22H25N3O5S
reactant | toluene | 2.7 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methanol | 0.3 ml | CO | CH4O
solvent | methanol | 0.9 ml | CO | CH4O
product | 2-(((3-methyl-4-((8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methoxy)pyridin-2-yl)methyl)sulfinyl)-1H-benzimidazole | 148 mg, 38.4% yield | CC=1C(=NC=CC1OCC1(OCC2(OCCO2)CO1)C)CS(=O)C1=NC2=C(N1)C=CC=C2 | C22H25N3O6S
